US04022795
To a solution of sodium formate (38 parts) in water (100 parts) are added sodium hydroxide liquor (32%; 13.5 parts), benzyl triethylammonium chloride (1.0 parts), 3% palladium on charcoal (50% paste; 6.0 parts) and 5-chloro-2-aminobenzotrifluoride (19.6 parts). The mixture is stirred rapidly at the boil under reflux for 4 hours and then steam distilled. The distillate is extracted with chloroform (2 × 50 parts), the extract dried over magnesium sulphate and then the solvent removed to give 9.7 parts (60.3%) of 2-aminobenzotrifluoride.

reactant | sodium formate | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 5-chloro-2-aminobenzotrifluoride | ClC=1C=CC(=C(C1)C(F)(F)F)N | C7H5ClF3N
solvent | water | O | H2O
catalyst | benzyl triethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-aminobenzotrifluoride | 60.3% | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
